US07700628B2
D. 2-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide
A solution of the 2-[4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide (0.2 g, 0.32 mmol) in trifluoroacetic acid (5 mL) was stirred at room temperature for 2 h. The mixture was poured into ice, then taken to basic pH with 5 N aqueous sodium hydroxide, and extracted with dichloromethane. The organic layer was separated, and the aqueous layer was thoroughly extracted with dichloromethane. The combined organic layers were dried with magnesium sulfate, filtered, and concentrated in vacuo to a yellow oily residue which was purified on a silica gel chromatotron plate. Elution with 9:1 dichloromethane-2 N ammonia in methanol provided the title compound as a clear oil which foamed up under vacuum (0.15 mg, 87%). Recrystallization of the oil from ethyl acetate-hexanes provided analytically pure product (0.09 mg) as a yellow-white crystalline solid.

reactant | 2-[4-(tert-butyl)-2-(1-Boc-piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | 0.32 mmol, 0.2 g | C(C)(C)(C)C1=CC(=C(CNC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C33H40Cl2N4O4
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzylamino]-5-chloro-N-(5-chloropyridin-2-yl)benzamide | C(C)(C)(C)C1=CC(=C(CNC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=C(C=C2)Cl)C=C1)OC1CCNCC1 | C28H32Cl2N4O2
